US06930120B2
4-Oxo-3-(3-phenyl-propionylamino)-pentanoic acid methyl ester
2-(3-Phenyl-propionylamino)-succinic acid 4-methyl ester (10 g, 36 mmol), pyridine (50 mL) and acetic anhydride (45 mL) were combined in a 500 mL flask. The reaction mixture was heated at 90° C. for 2 h and then cooled to ambient temperature. After concentrating the reaction mixture under reduced pressure, DI water was added (100 mL). (Potential exotherm!). The reaction mixture was partitioned between water and CH2Cl2. The organic phase was washed with 1N HCl and then dried (MgSO4), filtered and concentrated under reduced pressure. The material was used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.31-7.20 (m, 5H), 6.79 (br d, J=7.6 Hz, 1H), 4.72 (X of ABX, 1H), 3.65 (s, 3H), 3.01-2.93 (m, 3H), 2.71-2.62 (m, 3H), 2.11 (s, 3H); MS (EI) 278.1 (M+H).

reactant | 2-(3-Phenyl-propionylamino)-succinic acid 4-methyl ester | 36 mmol, 10 g | COC(CC(C(=O)O)NC(CCC1=CC=CC=C1)=O)=O | C14H17NO5
reactant | acetic anhydride | 45 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 4-Oxo-3-(3-phenyl-propionylamino)-pentanoic acid methyl ester | COC(CC(C(C)=O)NC(CCC1=CC=CC=C1)=O)=O | C15H19NO4
